US07863314B2
A. 3-[5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-imidazole-4-carbonyl]-benzoic acid
To a solution of 3-iodobenzoic acid tert-butyl ester (4.6g) in THF (20 mL) at −40° C. under N2 was added cyclohexylmagnesium chloride (2M in THF, 8.5 mL). The solution was kept at −40° C. to 0° C. for 20 min., when 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide was added and the reaction was kept at rt for 1 h. Then HCl (4 M, 10 mL) was added and the mixuture was heated at 40 to 45° C. overnight. The mixture was neutralized with K2CO3 solution and extracted with EtOAc (2×100 mL) and the combined organics dried over Na2SO4, and concentrated. Purification of the crude product by column chromatography (EtOAc: MeOH=6:1) gave the desired product (0.46 g).

reactant | 3-iodobenzoic acid tert-butyl ester | 4.6g | C(C)(C)(C)OC(C1=CC(=CC=C1)I)=O | C11H13IO2
reactant | cyclohexylmagnesium chloride | 2M, 8.5 mL | C1(CCCCC1)[Mg]Cl
reactant | 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C#N | C15H15N5O
reactant | HCl | 4 M, 10 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-imidazole-4-carbonyl]-benzoic acid | 0.46 g | NC1=C(N=CN1C1=C(C=CC(=C1)C(NC1CC1)=O)C)C(=O)C=1C=C(C(=O)O)C=CC1 | C22H20N4O4
